US07405210B2
Preparation 11: 1H-Pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A solution of (3-methylpyridin-4-yl)carbamic acid tert-butyl ester (Preparation 10, 1.0 g, 4.8 mmol) in anhydrous THF (10 mL) was cooled to −40° C. and tert-butyl lithium (5.9 mL, 10.1 mmol) added dropwise. The temperature was maintained at −40° C. for 1 h and then a solution of diethyl oxalate (0.72 mL, 5.3 mmol) in THF (20 mL) was added to the mixture. The reaction was warmed to 0° C., maintained at this temperature for 2 h, warmed to rt and stirred for 16 h. Hydrochloric acid (2N, 40 mL) was added and the reaction heated under reflux for 90 min, concentrated in vacuo and adjusted to pH 8 with saturated aqueous sodium hydrogen carbonate solution. The mixture was extracted with ethyl acetate (3×100 mL) and the organic solution dried (MgSO4) and concentrated in vacuo to give the title compound. δH (d6 DMSO): 1.33 (3H, t), 4.35 (2H, q), 7.27 (1H, s), 7.38 (1H, d), 8.25 (1H, d), 8.95 (1H, s); m/z (ES+)=191 [M+H]+.

reactant | (3-methylpyridin-4-yl)carbamic acid tert-butyl ester | 4.8 mmol, 1.0 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)C)=O | C11H16N2O2
reactant | tert-butyl lithium | 10.1 mmol, 5.9 mL | C(C)(C)(C)[Li]
reactant | diethyl oxalate | 5.3 mmol, 0.72 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Hydrochloric acid | 2N, 40 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1H-Pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C=NC=CC2N1 | C10H10N2O2
